US05149821
6-Amino-5-fluoro-2(3H)-benzoxazolone
To a solution of 5-fluoro-6-nitro-2(3H)-benzoxazolone (20 g, 0.1 mole) in 300 ml tetrahydrofuran was added 2 g palladium carbon (5%) under nitrogen atmosphere. The mixture was hydrogenated with a Parr shaker for 10 hours at 45 psi. The precipitate which resulted from hydrogenation was redissolved by adding tetrahydrofuran. The catalyst was removed by filtration and the filtrate was concentrated to give 18.1 g of the title compound as a brown solid: m.p. 180°-182° C. (dec.).

reactant | 5-fluoro-6-nitro-2(3H)-benzoxazolone | 0.1 mole, 20 g | FC=1C(=CC2=C(NC(O2)=O)C1)[N+](=O)[O-] | C7H3FN2O4
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 2 g | [C].[Pd]
product | 6-Amino-5-fluoro-2(3H)-benzoxazolone | 18.1 g | NC1=CC2=C(NC(O2)=O)C=C1F | C7H5FN2O2
